US07427683B2
d) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylate potassium salt
To a solution of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester (0.40 g, 1.3 mmol) (as prepared in the previous step) in ethanol (3 mL) was added a solution of 6M KOH (0.20 mL) and the reaction was stirred for 10 min and then concentrated to give 0.40 g (100%) of the title compound as a yellow solid. 1H-NMR (400 MHz, CD3OD): δ 7.98 (s, 1H), 5.92 (s, 2H), 3.62 (m, 2H), 0.94 (m, 2H), 0.00 (s, 9H). Mass spectrum (ESI-neg, m/z) Calcd. for C11H17N3O3Si, 266.1 (M−H), found 266.0.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | 1.3 mmol, 0.40 g | C(C)OC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C13H21N3O3Si
reactant | KOH | 6M, 0.20 mL | [OH-].[K+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylate potassium salt | 0.40 g, 100% | [K+].C(#N)C=1N=C(N(C1)COCC[Si](C)(C)C)C(=O)[O-] | InChI=1S/C11H17N3O3Si.K/c1-18(2,3)5-4-17-8-14-7-9(6-12)13-10(14)11(15)16;/h7H,4-5,8H2,1-3H3,(H,15,16);/q;+1/p-1
